US07728005B2
Synthesis of phenyl 7-hydroxy-1-naphthylcarbamate
To 8-amino-2-naphthol (100 mg) were added phenyl chloroformate (87 μl), saturated aqueous sodium hydrogen carbonate (0.5 ml), dichloromethane (1 ml) and water (0.5 ml), and the mixture was stirred for 3 hrs. The reaction mixture was diluted with dichloromethane. After washing with 1N hydrochloric acid, the organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated. Diethyl ether and hexane were added to the residue, and the precipitate was collected by filtration to give the title compound (160 mg). NMR data of Example 109: 1H-NMR (300 MHz, DMSO-d6) δ3.49 (2H, m), 4.06 (2H, s), 6.79 (4H, m), 7.10 (2H, m), 7.30 (2H, m), 7.75 (2H, m), 8.34 (1H, s), 9.69 (1H, s).

reactant | 8-amino-2-naphthol | 100 mg | NC=1C=CC=C2C=CC(=CC12)O | C10H9NO
reactant | phenyl chloroformate | 87 μl | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | sodium hydrogen carbonate | 0.5 ml | C(O)([O-])=O.[Na+]
reactant | water | 0.5 ml | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | phenyl 7-hydroxy-1-naphthylcarbamate | 160 mg | OC1=CC=C2C=CC=C(C2=C1)NC(OC1=CC=CC=C1)=O | C17H13NO3
